US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl)-5-chloropentan-1-one and piperidine with 4-phenylpiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-(4-phenylpiperidin-1-yl)pentan-1-one hydrochloride, m.p. 237°-239 C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl)-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-(4-phenylpiperidin-1-yl)pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)C1=CC=CC=C1)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C31H37ClN2O4.ClH/c1-36-25-16-22(17-26(18-25)37-2)21-38-31-20-29(33)28(32)19-27(31)30(35)10-6-7-13-34-14-11-24(12-15-34)23-8-4-3-5-9-23;/h3-5,8-9,16-20,24H,6-7,10-15,21,33H2,1-2H3;1H
